US04432993
A mixture of 2-(2-benzofuranyl)-2-hydroxy ethanamine (1.0 g) and 4-methylphenylacetone (0.76 g) in benzene (50 ml) was heated under reflux using a Dean and Stark head until the required amount of water had been collected. The solvent was evaporated, replaced with ethanol (50 ml) and the solution hydrogenated at atmospheric pressure over platinum oxide until the theoretical amount of hydrogen had been taken up. The reaction mixture was filtered through diatomaceous earth, the filtrate evaporated and the residue chromatographed on Kieselgel 60. Elution with 2% methanolchloroform gave N-[2-(4-methylphenyl)-1-methylethyl]-2-(2-benzofuranyl)-2-hydroxy ethanamine, as an 80:20 mixture of diastereoisomers, m.p. 92-98 (cyclohexane).

reactant | 2-(2-benzofuranyl)-2-hydroxy ethanamine | 1.0 g | O1C(=CC2=C1C=CC=C2)C(CN)O | C10H11NO2
reactant | 4-methylphenylacetone | 0.76 g | CC1=CC=C(C=C1)CC(C)=O | C10H12O
reactant | water | O | H2O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N-[2-(4-methylphenyl)-1-methylethyl]-2-(2-benzofuranyl)-2-hydroxy ethanamine | CC1=CC=C(C=C1)CC(C)NCC(O)C=1OC2=C(C1)C=CC=C2 | C20H23NO2
